US07329656B2
To a cooled (0-5° C.) mixture of 3-bromo-2-hydroxy-5-nitropyridine (47.0 g, 0.214 mol) and quinoline (13.7 g, 0.107 mol) was added POCl3 (26.0 mL, 0.278 mol) dropwise over ˜10 min (the mixture was difficult to stir initially but became less viscous as the reaction progressed and the mixture warmed). After stirring at 120° C. for 3.5 h, the mixture was cooled to 100° C. and water (90 mL) was added. The resulting mixture was stirred vigorously while cooling to 0-5° C. The product was collected by filtration, washed with water and dried in vacuo at 45° C. to give 3-bromo-2-chloro-5-nitropyridine (42.0 g, 82% yield). 1H NMR (CD3OD) δ 9.19 (d, J=2.4 Hz, 1H), 8.93 (d, J=2.4 Hz, 1H).

reactant | 3-bromo-2-hydroxy-5-nitropyridine | 0.214 mol, 47.0 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])O | C5H3BrN2O3
reactant | quinoline | 0.107 mol, 13.7 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | POCl3 | 0.278 mol, 26.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | water | 90 mL | O | H2O
product | 3-bromo-2-chloro-5-nitropyridine | 42.0 g, 82% yield | BrC=1C(=NC=C(C1)[N+](=O)[O-])Cl | C5H2BrClN2O2
